US05750555
3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl)-indol-1-yl)-propionyl-L-alanine methyl ester
3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl]-indol-1-yl)-propionic acid 272 mg (0.65 mmol) are dissolved in 3 mL anhydrous tetrahydrofuran and mixed with 145 mg (0.70 mmol) dicyclohexylcarbodiimide and a mixture of 90 mg (0.8 mmol) alanine ethyl ester hydrochloride and 85 mg triethylamine dissolved in 5 mL anhydrous tetrahydrofuran. The reaction mixture is stirred for 24 hours at ambient temperature, the solvent is then distilled off in a vacuum, the residue is taken up in 100 mL ethyl acetate, and the organic phase is washed with water. After drying over anhydrous sodium sulphate and distilling off the solvent in a vacuum, the crude product obtained is separated by thick layer chromatography (silica gel, dichloromethane/methanol=90:10%). The fraction with the RF of 0.31 is separated, the product is extracted and, after removal of the solvent in a vacuum, there are isolated 130 mg (40% of theory) of the desired product;

reactant | 3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl]-indol-1-yl)-propionic acid | 0.65 mmol, 272 mg | CN1C=C(C2=CC=CC=C12)C1=C(C(NC1=O)=O)C1=CN(C2=CC=CC=C12)CCC(=O)O | C24H19N3O4
reactant | dicyclohexylcarbodiimide | 0.70 mmol, 145 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | alanine ethyl ester hydrochloride | 0.8 mmol, 90 mg | Cl.C(C)OC([C@@H](N)C)=O
reactant | triethylamine | 85 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl)-indol-1-yl)-propionyl-L-alanine methyl ester | COC([C@@H](NC(CCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O)=O)C)=O | C28H26N4O5
